* C:\users\levys\Desktop\nwalvekar\csci403\simulate.asc
* Generated by LTspice 24.1.9 for Windows.
R2 N002 N001 2k tol=1 pwr=0.1
D1 N003 N002 1N4148
C1 N003 0 7n
R1 N003 N005 100k
R4 N005 0 100k
X§U1 N003 N005 N006 EC103D1 EC103D1
R5 N006 0 1.5k
M1 N004 N006 0 0 IRLML6246
R6 +5v N004 15k
R7 Vout 0 20k
M2 +5v N004 Vout Vout BSS84
V1 0 N001 PULSE(0 5 0 1u 1u 10m 20m)
.model D D
.lib C:\users\levys\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\levys\Local Settings\Application Data\LTspice\lib\cmp\standard.mos
.inc C:\Users\Nisha\Downloads\EC103D1.lib
.tran 0 1 0 0.001 uic
.backanno
.end
